US08455497B2
(3R,3aS,6aR)-Hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-2-hydroxy-1-(4-{[(methylamino)carbonyl]oxy}benzyl)propylcarbamate (309)
A mixture of (3R,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-2-hydroxy-1-(4-hydroxybenzyl)propylcarbamate (80 mg), methyl isocyanate (0.5 mL), dichloromethane (3 mL) and diisopropylamine (0.05 mL) was stirred at ambient temperature for 1 h. Solvent was evaporated and the residue was purified by chromatography (silica gel, hexanes/ethyl acetate, 3:1) to provide the title compound as a solid foam (57 mg). 1H NMR (DMSO-d6) δ 0.78 (3H, d), 0.82 (3H, d), 1.17 (1H, dd), 1.30-1.45 (1H, m), 1.9-2.0 (1H, m), 2.42 (1H, t), 2.6 (3H, d), 2.62-2.80 (3H, m), 2.99 (2H, dd), 3.15-3.20 (1H, m), 3.50-3.63 (4H, m), 3.7 (13H, t), 3.8 (1H, dd), 4.8 (1H, dd), 5.04 (1H, d), 5.5 (1H, d), 6.18 (2H, s), 6.95 (2H, d), 7.05 (1H, d), 7.15 (2H, d), 7.2 (1H, s), 7.25 (1H, d), 7.5 (1H, quartet), 8.08 (1H, d); MS: 650 (MH+).

reactant | (3R,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-2-hydroxy-1-(4-hydroxybenzyl)propylcarbamate | 80 mg | O1COC2=C1C=CC(=C2)S(=O)(=O)N(C[C@H]([C@H](CC2=CC=C(C=C2)O)NC(O[C@H]2CO[C@H]1OCC[C@H]12)=O)O)CC(C)C | C28H36N2O10S
reactant | methyl isocyanate | 0.5 mL | CN=C=O | C2H3NO
reactant | diisopropylamine | 0.05 mL | C(C)(C)NC(C)C | C6H15N
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | (3R,3aS,6aR)-Hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-2-hydroxy-1-(4-{[(methylamino)carbonyl]oxy}benzyl)propylcarbamate | O1COC2=C1C=CC(=C2)S(=O)(=O)N(C[C@H]([C@H](CC2=CC=C(C=C2)OC(=O)NC)NC(O[C@H]2CO[C@H]1OCC[C@H]12)=O)O)CC(C)C | C30H39N3O11S
